US06005116
(a) 2-Benzoyl-2-cyclopropylacetic acid methyl ester
Benzoyl chloride (1.0 ml) and 2-cyclopropylacetic acid methyl ester were subjected to reaction and post-treatment in a similar manner to that described in Reference example 8(a) to obtain the title compound (1.05 g, 28%) as a colorless liquid.

reactant | Benzoyl chloride | 1.0 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-cyclopropylacetic acid methyl ester | COC(CC1CC1)=O | C6H10O2
product | 2-Benzoyl-2-cyclopropylacetic acid methyl ester | 1.05 g, 28% | COC(C(C1CC1)C(C1=CC=CC=C1)=O)=O | C13H14O3
